US05106849
N-(2-[4-(Phenylmethyl)-1-piperazinyl]ethyl)tricyclo[3.3.1.13,7 ]decane-1-carboxamide Dihydrochloride
To a solution of adamantane-1-carboxylic acid (11.85 g, 0.065 mol) and 2-[4-(phenylmethyl)-1-piperazinyl]ethylamine (12.0 g, 0.054 mol) in dichloromethane (200 mL) at 4° C. was added, with stirring, a solution of diethylcyanophosphonate (11.8 mL, 0.065 mol) in dichloromethane (50 mL), followed by a solution of triethylamine (9.2 mL, 0.065 mol) in dichloromethane (50 mL). The resulting mixture was stirred overnight, during which time it came up to room temperature. The reaction mixture was then washed with 10% aqueous potassium carbonate (200 mL), dried over anhydrous sodium sulfate, and concentrated on a rotary evaporator. The desired product (TLC on silica gel using 10% methanol/ethyl acetate, Rf=0.33) was isolated by crystallization from hexane and recrystallized from hexane. It was then converted to its dihydrochloride salt with isopropanolic HCl (12.71 g, 52%), mp=259°-260° C.

reactant | adamantane-1-carboxylic acid | 0.065 mol, 11.85 g | C12(CC3CC(CC(C1)C3)C2)C(=O)O | C11H16O2
reactant | 2-[4-(phenylmethyl)-1-piperazinyl]ethylamine | 0.054 mol, 12.0 g | C1(=CC=CC=C1)CN1CCN(CC1)CCN | C13H21N3
reactant | diethylcyanophosphonate | 0.065 mol, 11.8 mL | C(C)OP(OCC)(=O)C#N | C5H10NO3P
reactant | triethylamine | 0.065 mol, 9.2 mL | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 200 mL | ClCCl | CH2Cl2
reactant | dichloromethane | 50 mL | ClCCl | CH2Cl2
reactant | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | N-(2-[4-(Phenylmethyl)-1-piperazinyl]ethyl)tricyclo[3.3.1.13,7 ]decane-1-carboxamide Dihydrochloride | 10% | Cl.Cl.C1(=CC=CC=C1)CN1CCN(CC1)CCNC(=O)C12CC3CC(CC(C1)C3)C2 | InChI=1S/C24H35N3O.2ClH/c28-23(24-15-20-12-21(16-24)14-22(13-20)17-24)25-6-7-26-8-10-27(11-9-26)18-19-4-2-1-3-5-19;;/h1-5,20-22H,6-18H2,(H,25,28);2*1H
